US07205306B2
4-(5,7-dichloro-2,3-dihydro-1H-indol-1-yl)-6-(1-ethylpropylamino)-2-methylpyrimidine (140 mg, 0.38 mmol) and N-chlorosuccinimide (60 mg, 0.45 mmol) were stirred in dry acetonitrile (5 mL) at 20° C. for 20 h. The reaction mixture was stripped in vacuo and the residue was chromatographed on silica gel using 20% EtOAc/hexanes to give the product, 5-chloro-4-(5,7-dichloro-2,3-dihydro-1H-indol-1-yl)-6-(1-ethylpropylamino)-2-methylpyrimidine (150 mg, 99% yield).

reactant | 4-(5,7-dichloro-2,3-dihydro-1H-indol-1-yl)-6-(1-ethylpropylamino)-2-methylpyrimidine | 0.38 mmol, 140 mg | ClC=1C=C2CCN(C2=C(C1)Cl)C1=NC(=NC(=C1)NC(CC)CC)C | C18H22Cl2N4
reactant | N-chlorosuccinimide | 0.45 mmol, 60 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 5-chloro-4-(5,7-dichloro-2,3-dihydro-1H-indol-1-yl)-6-(1-ethylpropylamino)-2-methylpyrimidine | 150 mg, 99% yield | ClC=1C(=NC(=NC1NC(CC)CC)C)N1CCC2=CC(=CC(=C12)Cl)Cl | C18H21Cl3N4
